US04767776
A mixture of 50.0 g (0.28 mole) of 6-methoxy-1-tetralone and 9.2 g (0.29 mole) of elemental sulfur was stirred and heated at 250°-260° for three hours (until the evolution of hydrogen sulfide gas had ceased). The mixture was cooled and then subjected to bulb-to-bulb distillation. The distillate was dissolved in 300 ml of dichloromethane, and the solution was extracted with 1.0N potassium hydroxide solution (3×150 ml). The base extracts were combined, cooled in ice, and acidified with 10% hydrochloric acid to precipitate the crude naphthol product as a gum. Trituration of the gum with tert-butyl methyl ether yielded 16.8 g (34% yield) of the analytically pure naphthol, mp 84°-86° (a mp of 83°-84° is given by M. P. Sibi, J. W. Dankwardt, and V. Snieckus, J. Org. Chem., 51, 271 (1986)).

reactant | 6-methoxy-1-tetralone | 0.28 mole, 50.0 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | sulfur | 0.29 mole, 9.2 g | [S] | S
reactant | hydrogen sulfide | S | H2S
product | naphthol | 34% yield | C=1C=CC=2C(C1)=CC=CC2O | C10H8O
